US05114960
A solution of 9.1 g of methyl 3-(4-chlorophenyl)-3a,4,5,6,7,7a -hexahydro-6-methyl-7a-pyrrolidino-1,2-benzisoxazole-6-carboxylate in 100 ml of 2N hydrochloric acid was heated under reflux for 6 hours. The product which separated on cooling was extracted with ethyl acetate and the ethyl acetate extract was dried over magnesium sulfate and evaporated. After crystallization from ethyl acetate/hexane there was obtained 5.3 g of 3-(4-chlorophenyl)-4,5,6,7-tetrahydro-6-methyl-1,2-benzisoxazole-6-carboxylic acid of melting point 185°-187° C.

reactant | methyl 3-(4-chlorophenyl)-3a,4,5,6,7,7a -hexahydro-6-methyl-7a-pyrrolidino-1,2-benzisoxazole-6-carboxylate | 9.1 g | ClC1=CC=C(C=C1)C1=NOC2(C1CCC(C2)(C(=O)OC)C)N2CCCC2 | C20H25ClN2O3
solvent | hydrochloric acid | 2N, 100 ml | Cl | ClH
product | 3-(4-chlorophenyl)-4,5,6,7-tetrahydro-6-methyl-1,2-benzisoxazole-6-carboxylic acid | 5.3 g | ClC1=CC=C(C=C1)C1=NOC2=C1CCC(C2)(C(=O)O)C | C15H14ClNO3
